US04282242
5-Benzoylpyrrole-3-carboxylic Acid
Methyl 5-benzoylpyrrole-3-carboxylate (7.5 g.) was combined with 100 ml. of 1 N sodium hydroxide and 100 ml. of ethanol and boiled in an open flask for 1 hour, by which time most of the ethanol had evaporated. The aqueous residue was diluted with 100 ml. of water and acidified with conc. hydrochloric acid to precipitate crystalline 5-benzoylpyrrole-3-carboxylic acid [6.3 g., m.p. 289°-290° C. (dec.), m/e 215].

reactant | Methyl 5-benzoylpyrrole-3-carboxylate | 7.5 g | C(C1=CC=CC=C1)(=O)C1=CC(=CN1)C(=O)OC | C13H11NO3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-Benzoylpyrrole-3-carboxylic Acid | C(C1=CC=CC=C1)(=O)C1=CC(=CN1)C(=O)O | C12H9NO3
